US06562989B2
4-nitrophenylmorpholine (Table 9, Entry 5)
According to the general procedure B, 4-chloronitrobenzene (80 mg, 0.51 mmol) reacted with morpholine (53 mg, 0.60 mmol) using 1 mol % of Pd(dba)2, 2 mol % of Ph5FcP(t-Bu)2, and K3PO4 (256 mg, 1.21 mmol) in DME at 100° C. to give the title compound (58 mg, 56%) as a yellow solid: 1H-NMR (400 MHz, CDCl3): δ 8.11 (d, 2H, J=9.6 Hz), 6.82 (d, 2H, J=9.6 Hz), 3.85 (t, 4H, J=5.2 Hz), 3.37 (t, 4H, J=5.2 Hz). 13C{1H}-NMR (125 MHz, CDCl3): δ 154.91, 138.80, 125.76, 112.50, 66.26, 47.00. GC/MS(EI): m/z 208 (M+).

reactant | 4-chloronitrobenzene | 0.51 mmol, 80 mg | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | morpholine | 0.60 mmol, 53 mg | N1CCOCC1 | C4H9NO
reactant | K3PO4 | 1.21 mmol, 256 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DME | COCCOC | C4H10O2
catalyst | Pd(dba)2 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 4-nitrophenylmorpholine | 58 mg, 56% | [N+](=O)([O-])C1=CC=C(C=C1)N1CCOCC1 | C10H12N2O3
